US08193246B2
20-Bromo-icosan-1-ol was synthesized according to Uneyama et al, Tetrahedron Letters, 1991, 32(11), 1459-1462. Briefly, 400 ml petrolether were heated before 240 ml petrolether, 20.34 g icosane-1,20-diol and 280 ml HBr (48% in H2O) were added. The mixture was refluxed over night and incubated at room temperature for another day. The precipitate was then removed by filtration and dissolved in 300 ml dichloromethane. The solution was dried over Na2SO4 and filtered through silica gel. The solvent was removed and the crude product finally recrystallized from petrolether. Purity of the product was judged by 1H-NMR.

reactant | icosane-1,20-diol | 20.34 g | C(CCCCCCCCCCCCCCCCCCCO)O | C20H42O2
reactant | HBr | 280 ml | Br | BrH
product | 20-Bromo-icosan-1-ol | BrCCCCCCCCCCCCCCCCCCCCO | C20H41BrO
